datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](C#N)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[Si](C)(C)[C:13]1=[CH:12][CH:11]=[CH:10][O:14]1>>CC[O:34][C:32]([C:21]([CH:20]([CH:10]1[CH:11]=[CH:12][C:13]([Si](C)(C)C)=[O+:14]1)[C:41]1=[CH:42][CH:43]=[C:44](C#N)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"CC1(C)C(C)(C)[O:74][B:63]([CH2:62][CH:11]=[CH2:10])[O:64]1.O=[N+]([O-])C1=CC=C([N:31]=[C:20]=[S:21])C=C1>>CC1(C)C(C)(C)[O:74][B:63]([CH2:62][CH+:11][CH2:10][C:20]([S-:21])=[N:31]C2=CC=C([N+](=O)[O-])C=C2)[O:64]1 10,11=10,20;20,21=21"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1.[NH2:10][NH:61][CH:62]=[O:63]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([NH2+:10][NH:61][CH:62]=[O:63])[C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
"CC[O:33][C:22]([CH:21]=[CH2:20])=[O:23].CC[O:92][C:61]([C-:10](F)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62]>>CC[O:33][C:22](=[CH:21][CH2:20][C:10](F)([C:61](=[O:62])[O:92]CC)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])[O-:23] 10=20;20,21=21,22;22,23=23"
"C[N:10](C)[NH:61]C.[O-][N+]1=[C:33]2[C:32](=NO1)[C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]1=[N+:42]([O-])O[N:35]=[C:34]21>>C[N+:10](C)([CH:20]1[C:21](=[N+:22]([O-])[O-:23])[C:32]2=NO[N+]([O-])=[C:33]2[C:34]2=[N:35]O[N+:42]([O-])=[C:41]12)[NH:61]C 10=20;20,21=21,22;22,23=23"
"C1CCC[C:11](=[CH2:10])CCC1.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5CC[CH:20]1C2C3C54>>[O+]#C[Fe-3:21]123(C#[O+])(C#[O+])C4CC[CH:20]([CH2:10][C+:11]5CCCCCCC5)C1C2C43 10,11=10,20;20,21=21"
"C1COC2(CC[C:20](=[O:21])CC2)O1.CC[O:62]/[C:11](=[CH:10]/[C:71]#[N:72])[O-:12]>>CC[O:62][C:11]([CH:10]([C:20]1([O-:21])CCC2(CC1)OCCO2)[C:71]#[N:72])=[O:12] 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C([S:32]([N:21]([F:20])[S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.[H][C:11]1([H:10])[CH:12]=[CH:13][N:14](C2=CC=CC=C2)[CH:63]=[C:62]1C(N)=O>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.[H:10][F:20].[H][C:11]1=[CH:12][CH:13]=[N+:14](C2=CC=CC=C2)[CH:63]=[C:62]1C(N)=O 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[N+:21](C)C)[CH:36]=[CH:35]1.O=[N+]([O-])C1=CC([N+](=O)[O-])=CC([C:61]([O-:10])=[O:62])=C1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([O:10][C:61](C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)=[O:62])[N:21](C)C)[CH:36]=[CH:35]1 10=20;20,21=21"
"C1=CC2=C(C=C1)[S:42](=[O:43])(=[O:44])[C:21](=[CH:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]1)[S:32]2(=[O:33])=[O:34].C[N:10](C)[NH:61][CH:62]=[O:63]>>C[N+:10](C)([CH:20]([C-:21]1[S:32](=[O:33])(=[O:34])C2=C(C=CC=C2)[S:42]1(=[O:43])=[O:44])[C:51]1=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]1)[NH:61][CH:62]=[O:63] 10=20;20,21=21"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2.COC1=CC=CC(OC)=C1[P:10](C1=C(OC)C=CC=C1OC)C1=C(OC)C=CC=C1OC>>COC1=CC=CC(OC)=C1[P+:10](C1=C(OC)C=CC=C1OC)(C1=C(OC)C=CC=C1OC)[CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC=CC=C2)C(=O)N(C)C12CCCC2)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"CC(C)[Si](C(C)C)(C(C)C)[N:12]1[CH:11]=[CH:10][CH:61]=[CH:62]1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C3=CC=CC=C3)[C:24](=[O:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]2[CH:11]=[N+:12]([Si](C(C)C)(C(C)C)C(C)C)[CH:62]=[CH:61]2)[C:21]2=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:61]/[C:11](=[C:10](/[C:72](=[O:73])[O:83]CC)[C:91]1=[CH:92][CH:93]=[C:94]([N+:95](=[O:96])[O-:97])[CH:103]=[CH:102]1)[O-:12].C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CC[O:61][C:11]([C:10]([CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)([C:72](=[O:73])[O:83]CC)[C:91]1=[CH:92][CH:93]=[C:94]([N+:95](=[O:96])[O-:97])[CH:103]=[CH:102]1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:33][C:22](/[CH:21]=[CH:20]/C)=[O:23].[NH2:10][C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1>>CC[O:33][C:22](=[CH:21][CH:20](C)[NH2+:10][C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.[CH:10]1=[CH:11][CH:12]=[C:13]2[C:14]1=[CH:15][CH:66]=[CH:67][CH:68]=[CH:69]2>>C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2[CH:11]=[CH:12][C:13]3=[C:14]2[CH+:15][CH:66]=[CH:67][CH:68]=[CH:69]3)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12;14,15=13,14"
"C[N:10]1CCCC1.FC(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33]>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].C[N+:10]1([S:20]C(F)F)CCCC1 10=20;20,21=21,22;22,23=23"
